US04730008
N-(4-Iodobenzoyl)piperidine
4-Iodobenzoyl chloride (10.0 g) was added portionwise to piperidine (3.53 g) in triethylamine (40 ml) at 0° and the suspension was stirred at room temperature under nitrogen for 1 h. The reaction mixture was poured into 2N aqueous hydrochloric acid (200 ml) and extracted with EA (3×100 ml). The combined extracts were washed with water (100 ml), 8% aqueous sodium bicarbonate (100 ml) and water (10 ml), dried and concentrated. The resultant solid (10.25 g) was purified by FCC eluting with ER-H (1:2→1:1) to give the title compound as a white solid (9.33 g) m.p. 126°-127°.

reactant | 4-Iodobenzoyl chloride | 10.0 g | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
reactant | piperidine | 3.53 g | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 2N, 200 ml | Cl | ClH
solvent | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
product | N-(4-Iodobenzoyl)piperidine | 9.33 g | IC1=CC=C(C(=O)N2CCCCC2)C=C1 | C12H14INO
